US08106204B2
d) 4-(4-Aminophenyl)-6-chloro-2-diethylamino-3,4-dihydroquinoline
5.49 g of sodium/mercury amalgam were added over the course of 5 hours to a solution of 250 mg of 4-(4-aminophenyl)-6-chloro-2-diethylaminoquinoline in 2.5 ml of water and 16 ml of ethanol while stirring. The mixture was stirred overnight and decanted to remove the Hg precipitate, and the solvent was distilled under reduced pressure. The residue was mixed with water and extracted with ethyl acetate. The solid product as pale residue was dissolved in a little ethyl acetate, acidified with ethereal HCl, stirred at room temperature and filtered with suction.

reactant | 4-(4-aminophenyl)-6-chloro-2-diethylaminoquinoline | 250 mg | NC1=CC=C(C=C1)C1=CC(=NC2=CC=C(C=C12)Cl)N(CC)CC | C19H20ClN3
solvent | water | 2.5 ml | O | H2O
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 4-(4-Aminophenyl)-6-chloro-2-diethylamino-3,4-dihydroquinoline | NC1=CC=C(C=C1)C1CC(=NC2=CC=C(C=C12)Cl)N(CC)CC | C19H22ClN3
